US07119115B2
A suspension of 0.22 g of 6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazol-3-ylamine and 1.5 cm3 of aqueous 1N sodium hydroxide solution in 5 cm3 of tetrahydrofuran is heated at a temperature in the region of 50° C. for about 24 hours. 5 cm3 of dioxane are added to the preceding mixture and the resulting mixture is heated at a temperature in the region of 100° C. for 2 hours. After concentrating the reaction mixture to dryness under reduced pressure (13 kPa), the residue is taken up in 30 cm3 of ethyl acetate and 30 cm3 of water. The aqueous phase is extracted with twice 30 cm3 of ethyl acetate and the combined organic phases are washed with 30 cm3 of saturated aqueous sodium bicarbonate solution, 30 cm3 of water and 30 cm3 of saturated aqueous sodium chloride solution and then dried over magnesium sulphate, filtered and concentrated under reduced pressure (13 kPa). After purification by flash chromatography on a column of silica [eluent: dichloromethane/methanol (95/5 by volume)], the residue is taken up in 5 cm3 of diisopropyl ether, drained by suction, washed with 2 cm3 of diisopropyl ether and dried under reduced pressure (13 kPa) at a temperature in the region of 30° C. 0.06 g of 6,6-diphenyl-6,7-dihydro-1H-indazol-3-ylamine is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazol-3-ylamine | 0.22 g | C1(=CC=CC=C1)C1(C=CC=2C(=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)N)C1=CC=CC=C1 | C26H23N3O2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
product | 6,6-diphenyl-6,7-dihydro-1H-indazol-3-ylamine | 0.06 g | C1(=CC=CC=C1)C1(C=CC=2C(=NNC2C1)N)C1=CC=CC=C1 | C19H17N3
